US08217069B2
2-Carbamoyl-9-[2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyphenyl]-7,9-dihydro-8H-purin-8-one
To a solution of 9-[2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyphenyl]-2-cyano-7,9-dihydro-8H-purin-8-one (43 mg) in dimethyl sulfoxide (2 mL) were added 2 mol/L aqueous sodium hydroxide solution (0.14 mL) and 30% aqueous hydrogen peroxide solution (0.02 mL), and the mixture was stirred at room temperature for 1 hour. To the reaction mixture was added 10% aqueous sodium sulfite solution, and the resulting mixture was stirred at room temperature for 10 minutes, and extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous sodium sulfate, and the solvent was removed under reduced pressure. The residual solids were suspended in a mixed solvent (n-hexane/ethyl acetate=1/1), and collected by filtration. The collected solids were washed with the same solvent, and dried under reduced pressure to give the title compound (3 mg).

reactant | 9-[2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyphenyl]-2-cyano-7,9-dihydro-8H-purin-8-one | 43 mg | ClC1=C(C=C(C(=C1)OC)OCC1=C(C(=CC=C1OC)F)F)N1C2=NC(=NC=C2NC1=O)C#N | C21H14ClF2N5O4
reactant | sodium hydroxide | 2 mol/L, 0.14 mL | [OH-].[Na+]
reactant | hydrogen peroxide | 0.02 mL | OO | H2O2
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | dimethyl sulfoxide | 2 mL | CS(=O)C | C2H6OS
product | 2-Carbamoyl-9-[2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyphenyl]-7,9-dihydro-8H-purin-8-one | 3 mg | C(N)(=O)C1=NC=C2NC(N(C2=N1)C1=C(C=C(C(=C1)OCC1=C(C(=CC=C1OC)F)F)OC)Cl)=O | C21H16ClF2N5O5
